US07858784B2
Synthesis of N-hexyl-2-methylaniline (FIG. 12, Table 8, Entry 5)
Following general procedure D, a mixture of 2-chlorotoluene (1.17 mL, 10 mmol), hexylamine (1.82 mL, 14 mmol), NaOt-Bu (1.15 g, 12 mmol), 10 (4 mg, 0.05 mol %), 1 (2.5 mg, 0.05 mol %), and Bu2O (3 mL) was heated to 85° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 50 g snap; 0-50% EtOAc/hexanes) to provide the title compound as a clear oil (1.732 g, 91%). 1H NMR (300 MHz, CDCl3) δ: 7.33 (t, J=7.5 Hz, 1H), 7.25 (d, J=7.5 Hz, 1H), 6.83 (m, 2H), 3.61 (s, 1H), 3.33 (t, J=7.0 Hz, 2H), 2.32 (s, 3H), 1.85 (septet, J=7.0 Hz, 2H), 1.58 (m, 6H), 1.14 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 146.8, 130.4, 127.6, 122.0, 117.0, 110.0, 44.4, 32.2, 30.0, 27.4, 23.2, 17.9, 14.5 ppm. IR (neat, cm−1): 3430, 2956, 2924, 2856, 1607, 1514, 1473, 1317, 1260, 745. Anal. Calcd. for C13H21N: C, 81.61; H, 11.06. Found: C, 81.81; H, 11.02.

reactant | 2-chlorotoluene | 10 mmol, 1.17 mL | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | hexylamine | 14 mmol, 1.82 mL | C(CCCCC)N | C6H15N
reactant | NaOt-Bu | 12 mmol, 1.15 g | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 3 mL | O(CCCC)CCCC | C8H18O
product | N-hexyl-2-methylaniline | 1.732 g, 91% | C(CCCCC)NC1=C(C=CC=C1)C | C13H21N
